US04632925
5-bromopyrimidine and 5-hexyn-1-ol was reacted, as above, to give 5-pyrimidinehexanol as a colorless oil. bp 170°-175° C. (0.6 mm). Analysis Calculated for C10H16N2O: C, 66.63; H, 8.95; N, 15.54. Found: C, 66.62; H, 9.15; N, 15.59.

reactant | 5-bromopyrimidine | BrC=1C=NC=NC1 | C4H3BrN2
reactant | 5-hexyn-1-ol | C(CCCC#C)O | C6H10O
product | 5-pyrimidinehexanol | N1=CN=CC(=C1)CCCCCCO | C10H16N2O
